resistor_cube - fault test
V1 n7 0 DC 12
R1 0 n1 1.011166
R2 0 n2 0.987086
R3 0 n4 0.103337
R4 n1 n3 1.002903
R5 n1 n5 1.002493
R6 n2 n3 1.000298
R7 n2 n6 1.010146
R8 n3 n7 1.000783
R9 n4 n5 1.008732
R10 n4 n6 1.017567
R11 n5 n7 1.004879
R12 n6 n7 1.018872
.op
.control
run
print v(n1) v(n2) v(n3) v(n4) v(n5) v(n6) v(n7)
print @r1[i] @r2[i] @r3[i] @r4[i] @r5[i] @r6[i] @r7[i] @r8[i] @r9[i] @r10[i] @r11[i] @r12[i]
.endc
.end
